datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1(C)O[C@@H]2CC(=O)OC[C@]23[C@@H]1CC(=O)[C@@]1(C)[C@H]3C[C@](C)(CC2CCOC2)C[C@]12O[C@H]2C(=O)[O-:10].O=C1C=CC(O)=CC=C1[O:21][H:20]>>CC1(C)O[C@@H]2CC(=O)OC[C@]23[C@@H]1CC(=O)[C@@]1(C)[C@H]3C[C@](C)(CC2CCOC2)C[C@]12O[C@H]2C(=O)[O:10][H:20].O=C1C=CC(O)=CC=C1[O-:21] 10=20;20,21=21",
"CC/C=C/CC1=[NH+]C(C(=O)[O:21][H:20])C2SC(C)(C)C(C(=O)O)N12.c1cnc2c(c1)ccc1ccc[n:10]c12>>CC/C=C/CC1=[NH+]C(C(=O)[O-:21])C2SC(C)(C)C(C(=O)O)N12.c1cnc2c(c1)ccc1ccc[n+:10]([H:20])c12 10=20;20,21=21",
"CN(C)c1ccc(C2C[N+:21]3([H:20])CCC2CC3)cc1.O=C([O-])/C(=N/[O-:10])c1ccccc1>>CN(C)c1ccc(C2C[N:21]3CCC2CC3)cc1.O=C([O-])/C(=N/[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CCC[N:10](CCC)CC(=O)NC1c2ccccc2-c2ccccc21.CO[N:21](C1=CC(=O)N(C)C(=O)N1C)[H:20]>>CCC[N+:10](CCC)(CC(=O)NC1c2ccccc2-c2ccccc21)[H:20].CO[N-:21]C1=CC(=O)N(C)C(=O)N1C 10=20;20,21=21",
"NC(N)=[NH:10].O=C([O-])Cc1nnn[n:21]1[H:20]>>NC(N)=[NH+:10][H:20].O=C([O-])Cc1nnn[n-:21]1 10=20;20,21=21",
"Clc1ccnc2c1ccc1c(Cl)cc[n:10]c12.OCc1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>Clc1ccnc2c1ccc1c(Cl)cc[n+:10]([H:20])c12.OCc1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"C[NH:10]C.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>C[NH+:10](C)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C(=C/c1cc[n+:21]([H:20])cc1)\c1ccccc1.COc1ccccc1/C=C/C=N/[O-:10]>>C(=C/c1cc[n:21]cc1)\c1ccccc1.COc1ccccc1/C=C/C=N/[O:10][H:20] 10=20;20,21=21",
"N#CC(C#N)=C(c1ccc(N)cc1)[O-:10].c1ccc([NH2+:21][H:20])c(-c2nc3ccccc3s2)c1>>N#CC(C#N)=C(c1ccc(N)cc1)[O:10][H:20].c1ccc([NH2:21])c(-c2nc3ccccc3s2)c1 10=20;20,21=21",
"CC(C)C[NH:10]CC(C)C.CC(C)[NH2+:21][H:20]>>CC(C)C[NH+:10](CC(C)C)[H:20].CC(C)[NH2:21] 10=20;20,21=21",
"NC(=O)C(N)CCC(=O)[O-:10].OCCCc1ccc[n+:21]([H:20])c1>>NC(=O)C(N)CCC(=O)[O:10][H:20].OCCCc1ccc[n:21]c1 10=20;20,21=21",
"[H:20][OH:21].C1CC2=N[N+](=[C-:10]N2C1)C3=CC=C(C=C3)C#N>>[H:20][C:10]1=[N+](N=C2N1CCC2)C3=CC=C(C=C3)C#N.[OH-:21] 10=20;20,21=21",
"CNCC[NH:10]CCN.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CNCC[NH+:10](CCN)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CCCCC[NH+:21](Cc1ccccc1O)[H:20].COC(=O)[C@@H]1[C@H](O)C[C@@H]2CC[C@H]1[N:10]2C>>CCCCC[NH:21]Cc1ccccc1O.COC(=O)[C@@H]1[C@H](O)C[C@@H]2CC[C@H]1[N+:10]2(C)[H:20] 10=20;20,21=21",
"CC(C)(N)C(C)(C)[NH2:10].O=C(O)C[NH+](CC(=O)[O:21][H:20])Cc1cc([N+](=O)[O-])ccc1O>>CC(C)(N)C(C)(C)[NH2+:10][H:20].O=C(O)C[NH+](CC(=O)[O-:21])Cc1cc([N+](=O)[O-])ccc1O 10=20;20,21=21",
"CC1[C@H](N)[C@H]1[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC1[C@H](N)[C@H]1[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCC(C)C(C(=O)[O-])[NH2:10].C[PH2+:21][H:20]>>CCC(C)C(C(=O)[O-])[NH2+:10][H:20].C[PH2:21] 10=20;20,21=21",
"CCOP(=O)(C[N:10]1CCOCC1)OCC.O=C([O-])C1(C(=O)[O:21][H:20])CC1>>CCOP(=O)(C[N+:10]1([H:20])CCOCC1)OCC.O=C([O-])C1(C(=O)[O-:21])CC1 10=20;20,21=21",
"CC(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(C)C[NH:10]CC(=O)c1ccc(O)cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)C[NH+:10](CC(=O)c1ccc(O)cc1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)[N+:21](=C(N)CC[Si](C)(C)C)[H:20].C[NH+](C)CCNCC[N:10](C)C>>CN(C)[N:21]=C(N)CC[Si](C)(C)C.C[NH+](C)CCNCC[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NS(=O)(=O)c1cccc(C[NH2:10])c1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NS(=O)(=O)c1cccc(C[NH2+:10][H:20])c1 10=20;20,21=21",
"O=C(c1ccccc1)c1cc[n:21]([H:20])n1.c1cc(N2CCCC2)c2c([N:10]3CCCC3)cccc2c1>>O=C(c1ccccc1)c1cc[n-:21]n1.c1cc(N2CCCC2)c2c([N+:10]3([H:20])CCCC3)cccc2c1 10=20;20,21=21",
"Cc1nc(Cc2ccccc2)c([O:21][H:20])o1.O=C([O-])[C@H](c1ccccc1O)[NH:10]CC[NH2+][C@@H](C(=O)[O-])c1ccccc1O>>Cc1nc(Cc2ccccc2)c([O-:21])o1.O=C([O-])[C@H](c1ccccc1O)[NH+:10](CC[NH2+][C@@H](C(=O)[O-])c1ccccc1O)[H:20] 10=20;20,21=21",
"Brc1c(-c2ccccc2)noc1[O:21][H:20].CSc1ccc([NH2:10])cc1>>Brc1c(-c2ccccc2)noc1[O-:21].CSc1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"Cc1cc(C(F)(F)F)[n:10][nH]1.NC(=O)NOCCC([NH3+])C(=O)[O:21][H:20]>>Cc1cc(C(F)(F)F)[n+:10]([H:20])[nH]1.NC(=O)NOCCC([NH3+])C(=O)[O-:21] 10=20;20,21=21",
"C[NH:10]CCC(N)=NO.O=C1C([O-])=Nc2ccccc2[N:21]1[H:20]>>C[NH+:10](CCC(N)=NO)[H:20].O=C1C([O-])=Nc2ccccc2[N-:21]1 10=20;20,21=21",
"COc1ccc2c3c([n-:10]c2c1)C(C)=NCC3.Cc1ccc([N+](=O)[O-])cc1C(=O)[O:21][H:20]>>COc1ccc2c3c([n:10]([H:20])c2c1)C(C)=NCC3.Cc1ccc([N+](=O)[O-])cc1C(=O)[O-:21] 10=20;20,21=21",
"O=Cc1ccc(-c2c[n+:21]([H:20])c(-c3ccccc3)o2)cc1.[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@H]1[NH2:10]>>O=Cc1ccc(-c2c[n:21]c(-c3ccccc3)o2)cc1.[NH3+][C@H]1C[C@H]2CCCC[C@@H]2C[C@H]1[NH2+:10][H:20] 10=20;20,21=21",
"C1CCN([N:10]2CCCCC2)CC1.Clc1ccc([O:21][H:20])c(C[NH+]2CCCCC2)c1>>C1CCN([N+:10]2([H:20])CCCCC2)CC1.Clc1ccc([O-:21])c(C[NH+]2CCCCC2)c1 10=20;20,21=21",
